US03965141
To a slurry of 12.4 g. of 2-cyano-3-dimethylaminoacrolein in 50 ml. of water was added in small portions 13.6 g. of hydroxylamine-0-sulfonic acid (91% pure). The resulting clear solution was stirred for an additional 10 minutes, then cooled to 0° and adjusted to pH 6.0 by addition of approximately 26 ml. of 5N sodium hydroxide solution. The mixture was heated for 20 minutes in a water bath at 70°. A pH 3 was maintained over this period by dropwise addition of 5N sodium hydroxide solution. After cooling to room temperature, the mixture was extracted with 3 × 100 ml. of methylene chloride. The combined extracts were washed with 50 ml. of water, dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure. Thus, dimethylaminomethylenemalononitrile was obtained. After recrystallization from isopropanol, the material had a melting point of 93°-95°.

reactant | 2-cyano-3-dimethylaminoacrolein | C(#N)C(C=O)=CN(C)C | C6H8N2O
reactant | hydroxylamine-0-sulfonic acid | NOS(=O)(=O)O | H3NO4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | O | H2O
product | dimethylaminomethylenemalononitrile | CN(C)C=C(C#N)C#N | C6H7N3
